US07417060B2
To a solution of 4-[(1R,2S)-2-amino-1-hydroxypropyl]-phenol (96.6 mg) in N,N-dimethylformamide (1.00 ml) were added diisopropylamine (156 μl) and 4′-(2-bromoethoxy)-3-(isopropylthio)-N-(methylsulfonyl)-4-biphenylcarboxamide (210 mg) at room temperature and stirred at 100° C. for 5 hours. To the reaction mixture was added hydrogen chloride 1,4-dioxane solution (4M, 464 μl) and stirred at 0° C. The mixture was filtrated and the filtrate was concentrated in vacuo. The residue was washed with ethyl ether three times, dried and purified with reverse phase silica gel column chromatography. To the resulting solution was added hydrogen chloride ethyl acetate solution (4M, 111 μl) and concentrated in vacuo to give 4′-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethoxy]-3-(isopropylthio)-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride (108 mg).

reactant | 4-[(1R,2S)-2-amino-1-hydroxypropyl]-phenol | 96.6 mg | N[C@H]([C@H](O)C1=CC=C(C=C1)O)C | C9H13NO2
reactant | diisopropylamine | 156 μl | C(C)(C)NC(C)C | C6H15N
reactant | 4′-(2-bromoethoxy)-3-(isopropylthio)-N-(methylsulfonyl)-4-biphenylcarboxamide | 210 mg | BrCCOC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)SC(C)C | C19H22BrNO4S2
reactant | hydrogen chloride 1,4-dioxane | 4M, 464 μl | O1CCOCC1.Cl
solvent | N,N-dimethylformamide | 1.00 ml | CN(C=O)C | C3H7NO
product | 4′-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethoxy]-3-(isopropylthio)-N-(methylsulfonyl)-4-biphenylcarboxamide hydrochloride | 108 mg | Cl.O[C@@H]([C@H](C)NCCOC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)NS(=O)(=O)C)SC(C)C)C1=CC=C(C=C1)O | InChI=1S/C28H34N2O6S2.ClH/c1-18(2)37-26-17-22(9-14-25(26)28(33)30-38(4,34)35)20-7-12-24(13-8-20)36-16-15-29-19(3)27(32)21-5-10-23(31)11-6-21;/h5-14,17-19,27,29,31-32H,15-16H2,1-4H3,(H,30,33);1H/t19-,27-;/m0./s1
